US05025013
N-(1-Benzyl-4-piperidyl)-N-(4-fluorophenyl)-4-fluorobenzamide hydrochloride (3.2 g) in 95% strength ethanol (50 cc) is hydrogenated at 60° C. at atmospheric pressure in the presence of palladium hydroxide (0.5 g). After filtration through kieselguhr and concentration to dryness under reduced pressure (5.2 kPa), N-(4-fluorophenyl)-N-(4-piperidyl)-4-fluorobenzamide hydrochloride (2.3 g) is obtained in the form of a white powder, m.p. 170° C.

reactant | N-(1-Benzyl-4-piperidyl)-N-(4-fluorophenyl)-4-fluorobenzamide hydrochloride | 3.2 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)N(C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F
catalyst | palladium hydroxide | 0.5 g | [OH-].[Pd+2].[OH-]
solvent | ethanol | 50 cc | C(C)O | C2H6O
product | N-(4-fluorophenyl)-N-(4-piperidyl)-4-fluorobenzamide hydrochloride | 2.3 g | Cl.FC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)F)=O)C1CCNCC1 | InChI=1S/C18H18F2N2O.ClH/c19-14-3-1-13(2-4-14)18(23)22(17-9-11-21-12-10-17)16-7-5-15(20)6-8-16;/h1-8,17,21H,9-12H2;1H
